US08536229B2
A solution of methyl-(3-oxo-cyclohex-1-enyl)-carbamic acid methyl ester (412 mg, 2.2 mmol) in methanol (20 ml) is hydrogenated with Pd/C (10%, 80 mg, 1 bar). After filtration the crude product is chromatographed on silica gel (30 g) with hexane/ethyl acetate (1:1 v/v) as eluent. Methyl-(3-oxo-cyclohexyl)-carbamic acid methyl ester is obtained as a colorless oil. NMR (400 MHz; CDCl3): 4.23 (br, 1H), 3.69 (s, 3H), 2.83 (br,s, 3H), 2.57-2.34 (m, 3H), 2.21 (td, J=14 Hz, J=6 Hz, 1H), 2.05 (m, 1H), 1.91 (m, 1H), 1.80 (qd, J=12.5 Hz, J=3.5 Hz, 1H), 1.6 (m, 1H).

reactant | methyl-(3-oxo-cyclohex-1-enyl)-carbamic acid methyl ester | 2.2 mmol, 412 mg | COC(N(C1=CC(CCC1)=O)C)=O | C9H13NO3
solvent | methanol | 20 ml | CO | CH4O
catalyst | Pd/C | 80 mg | [Pd] | Pd
product | Methyl-(3-oxo-cyclohexyl)-carbamic acid methyl ester | COC(N(C1CC(CCC1)=O)C)=O | C9H15NO3
